US05807860
Ethyl acetate (175 ml) was added to N-{5-(1-imidazolyl)-2-methoxyphenyl}methyl-N-(1-pentyl)-N'-[2-{3-(4-phenyl-1-piperazinyl)propoxy}-6-methylphenyl]urea (11.7 g, 0.0187 mol). The mixture was added dropwise with 4N HCl solution in ethyl acetate (16 ml, 0.064 mol) at room temperature with stirring. After stirred for 1 hour at room temperature, the mixture was added with ether (100 ml), and stirring was continued for 1 hour at room temperature. The precipitated amorphous crystals were collected by filtration under nitrogen atmosphere and dried at 60° C. under reduced pressure to give N-{5-(1-imidazolyl)-2-methoxyphenyl}methyl-N-(1-pentyl)-N'-[2-{3-(4-phenyl-1-piperazinyl)propoxy}-6-methyphenyl]urea trihydrochloride. (13.15 g).

reactant | Ethyl acetate | 175 ml | C(C)(=O)OCC | C4H8O2
reactant | N-{5-(1-imidazolyl)-2-methoxyphenyl}methyl-N-(1-pentyl)-N'-[2-{3-(4-phenyl-1-piperazinyl)propoxy}-6-methylphenyl]urea | 0.0187 mol, 11.7 g | N1(C=NC=C1)C=1C=CC(=C(C1)CN(C(=O)NC1=C(C=CC=C1C)OCCCN1CCN(CC1)C1=CC=CC=C1)CCCCC)OC | C37H48N6O3
reactant | HCl | 4N | Cl | ClH
reactant | ethyl acetate | 0.064 mol, 16 ml | C(C)(=O)OCC | C4H8O2
solvent | ether | 100 ml | CCOCC | C4H10O
product | N-{5-(1-imidazolyl)-2-methoxyphenyl}methyl-N-(1-pentyl)-N'-[2-{3-(4-phenyl-1-piperazinyl)propoxy}-6-methyphenyl]urea trihydrochloride | Cl.Cl.Cl.N1(C=NC=C1)C=1C=CC(=C(C1)CN(C(=O)NC1=C(C=CC=C1C)OCCCN1CCN(CC1)C1=CC=CC=C1)CCCCC)OC | InChI=1S/C37H48N6O3.3ClH/c1-4-5-9-20-42(28-31-27-33(16-17-34(31)45-3)43-21-18-38-29-43)37(44)39-36-30(2)12-10-15-35(36)46-26-11-19-40-22-24-41(25-23-40)32-13-7-6-8-14-32;;;/h6-8,10,12-18,21,27,29H,4-5,9,11,19-20,22-26,28H2,1-3H3,(H,39,44);3*1H
